US05332733
7 g (=0.035 m) of 2-chloro-2H-1,4-benzothiazine-3(4H)-one, 6.2 g of N-(4-methylpyridin-2-yl)-piperazine, and 7 g of triethylamine were heated at reflux with stirring for 5 hours in 100 ml of toluene. The suspension was worked up by diluting it with 200 ml of toluene, and the resulting precipitate was filtered out and dissolved in 20% strength aqueous hydrochloric acid solution. The solution was rendered alkaline by adding an ammonium hydroxide solution, and the resulting precipitate was filtered out, washed with water and dried. 2 g of beige-colored crystalline 2-[4-(4-methylpyridin-2-yl)-piperazin-1-yl]-2H-1,4-benzothiazine-3(4H)-one having a melting point of 245° C. were obtained.

reactant | 2-chloro-2H-1,4-benzothiazine-3(4H)-one | 7 g | ClC1SC2=C(NC1=O)C=CC=C2 | C8H6ClNOS
reactant | N-(4-methylpyridin-2-yl)-piperazine | 6.2 g | CC1=CC(=NC=C1)N1CCNCC1 | C10H15N3
reactant | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(4-methylpyridin-2-yl)-piperazin-1-yl]-2H-1,4-benzothiazine-3(4H)-one | 2 g | CC1=CC(=NC=C1)N1CCN(CC1)C1SC2=C(NC1=O)C=CC=C2 | C18H20N4OS
